US04906634
3,4-Dimethoxy-N-[3-(4-nitrophenoxy)propyl]-N-methylbenzeneethanamine
In a manner similar to Preparation 56 react 3,4-dimethoxy-N-methylbenzeneethanamine with 1-(3-chloropropoxy)-4-nitrobenzene in acetonitrile to obtain the title compound.

reactant | 3,4-dimethoxy-N-methylbenzeneethanamine | COC=1C=C(C=CC1OC)CCNC | C11H17NO2
reactant | 1-(3-chloropropoxy)-4-nitrobenzene | ClCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO3
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,4-Dimethoxy-N-[3-(4-nitrophenoxy)propyl]-N-methylbenzeneethanamine | COC=1C=C(C=CC1OC)CCN(C)CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C20H26N2O5
